US06740777B2
To a solution of 2-bromo-5-methylbenzoic acid (5.00 g, 23.3 mmol) in DME (100 mL) were added 3-carboxyphenylboronic acid (3.86 g; 23.3 mmol), a solution of Na2CO3 (9.90 g, 93 mmol) in H2O and tetrakis(triphenylphosphine)palladium. The mixture was stirred at 90° C. for 4 days. The mixture was allowed to cool to rt, diluted with EtOAc (50 mL), and washed with a saturated NaHCO3 solution. The aqueous layer was separated, acidified with 10% HCl, and extracted with EtOAc (3×20 mL). The combined extracts were dried over MgSO4 and concentrated. The crude material was purified by column chromatography (9:1 hexanes/EtOAc 1% acetic acid) to afford 4-methyl-[1,1′-biphenyl]-2,3′-dicarboxylic acid (2.20 g, 37%) as a solid: 1H NMR (DMSO-d6) δ2.40 (s, 3H), 7.30 (m, 1H), 7.42 (m, 1H), 7.52-7.57 (m, 2H), 7.60 (s, 1H), 7.85 (s, 1H), 7.91-7.92 (m, 1H).

reactant | 2-bromo-5-methylbenzoic acid | 23.3 mmol, 5.00 g | BrC1=C(C(=O)O)C=C(C=C1)C | C8H7BrO2
reactant | 3-carboxyphenylboronic acid | 23.3 mmol, 3.86 g | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
reactant | Na2CO3 | 93 mmol, 9.90 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 100 mL | COCCOC | C4H10O2
solvent | H2O | O | H2O
solvent | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 4-methyl-[1,1′-biphenyl]-2,3′-dicarboxylic acid | 2.20 g, 37% | CC=1C=C(C(=CC1)C1=CC(=CC=C1)C(=O)O)C(=O)O | C15H12O4
